US04839376
1-Methyl-5-phenyl-2-pyrazoline (Compound No. 55)
Cinnamaldehyde (13.2 g) was added dropwise to a solution of 5 g methylhydrazine in 50 ml ethanol, and the mixture was heated under reflux for six hours. At the end of reaction, the solvent was distilled off under reduced pressure, and the residue was dissolved in 50 ml ether. The solution was washed with water and concentrated, and the concentrate was distilled under reduced pressure, giving 3.6 g (yield: 22%) of pure product. B.p.: 95°-105° C./5 mmHg; NMR (CDCl3): 2.2-3.3 (2H, m), 2.65 (3H, s), 3.76 (1H, dd, J=10, 14 Hz), 6.51 (1H, t, J=2 Hz), 7.1-7.6 (5H, m).

reactant | Cinnamaldehyde | 13.2 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | methylhydrazine | 5 g | CNN | CH6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Methyl-5-phenyl-2-pyrazoline | 3.6 g, yield: 22% | CN1N=CCC1C1=CC=CC=C1 | C10H12N2
